US07244843B2
Step B. Preparation of (R)-1,3,4,10b-tetrahydro-9-hydroxy-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt
To a stirring solution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-hydroxy-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (14 mg, 0.04 mmol) in dry ether (2 mL) was added hydrochloric acid (1 mL). The reaction was stirred for 1 h and then conc. in vacuo to a white solid. The solid was dissolved in water and lyophilized to 10 mg of a white solid. MS (ESI) 273 (M−Cl).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-hydroxy-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.04 mmol, 14 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)O)C(F)(F)F)=O)CC1 | C17H19F3N2O4
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | ether | 2 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | (R)-1,3,4,10b-tetrahydro-9-hydroxy-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt | Cl.OC1=CC(=C2C(N3[C@H](C2=C1)CNCC3)=O)C(F)(F)F | InChI=1S/C12H11F3N2O2.ClH/c13-12(14,15)8-4-6(18)3-7-9-5-16-1-2-17(9)11(19)10(7)8;/h3-4,9,16,18H,1-2,5H2;1H/t9-;/m0./s1
